US08110585B2
ethyl 2-(7-fluoro-2-methyl-2H-indazol-4-yl)cyclopropanecarboxylate
Under nitrogen atmosphere, to a suspension of sodium hydride (290 mg, 7.25 mmol) in dimethyl sulfoxide (45 mL) was added trimethylsulfoxonium iodide (1.73 g, 7.86 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added a solution of ethyl (2E)-3-(7-fluoro-2-methyl-2H-indazol-4-yl)acrylate (1.50 g, 6.04 mmol) in dimethyl sulfoxide (15 mL) at 0° C., and the mixture was stirred at 70° C. for 27 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=15/85-+50/50) to give the title compound (1.20 g, yield 76%).

reactant | sodium hydride | 7.25 mmol, 290 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 7.86 mmol, 1.73 g | [I-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-(7-fluoro-2-methyl-2H-indazol-4-yl)acrylate | 6.04 mmol, 1.50 g | FC1=CC=C(C2=CN(N=C12)C)/C=C/C(=O)OCC | C13H13FN2O2
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 45 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | ethyl 2-(7-fluoro-2-methyl-2H-indazol-4-yl)cyclopropanecarboxylate | 1.20 g, yield 76% | FC1=CC=C(C2=CN(N=C12)C)C1C(C1)C(=O)OCC | C14H15FN2O2
